### PR TITLE
[Merged by Bors] - feat(Analysis/Asymptotics): add `IsEquivalent.pow/zpow`

### PR DESCRIPTION
**Pull request by wwylele**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean [hunk 1]
```diff
@@ -286,6 +286,16 @@ protected theorem IsEquivalent.div (htu : t ~[l] u) (hvw : v ~[l] w) :
     (fun x ↦ t x / v x) ~[l] fun x ↦ u x / w x := by
   simpa only [div_eq_mul_inv] using htu.mul hvw.inv
 
+protected theorem IsEquivalent.pow (h : t ~[l] u) (n : ℕ) : t ^ n ~[l] u ^ n := by
+  induction n with
+  | zero => simpa using IsEquivalent.refl
+  | succ _ ih => simpa [pow_succ] using ih.mul h
+
+protected theorem IsEquivalent.zpow (h : t ~[l] u) (n : ℤ) : t ^ n ~[l] u ^ n := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean:294]: nit: perhaps `z` instead of `n` for the power here.

**Comment by eric-wieser** [comment]
bors d+

Thanks!

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean:294]: Sounds good. I'll change it
